US04538002
reacting para-isopropenylanisole with hydrogen peroxide in the presence of a mineral acid and a solvent to yield para- hydroxyanisole.

reactant | para-isopropenylanisole | C(=C)(C)C1=CC=C(C=C1)OC | C10H12O
reactant | hydrogen peroxide | OO | H2O2
product | para- hydroxyanisole | OC1=CC=C(C=C1)OC | C7H8O2
